US06528525B1
(c) 3′-Methoxymethoxylmethylbiphenyl-4-carboxylic acid
In a similar manner to that described in Example 2, a reaction was carried out using methyl 3′-methoxymethoxymethylbiphenyl-4-carboxylate (445 mg), which is the product of Reference example 15(b), and aqueous sodium hydroxide (1N, 3.10 ml) and the reaction mixture was treated to afford the desired compound (342 mg) as colorless crystals.

reactant | methyl 3′-methoxymethoxymethylbiphenyl-4-carboxylate | 445 mg | COCOCC=1C=C(C=CC1)C1=CC=C(C=C1)C(=O)OC | C17H18O4
reactant | sodium hydroxide | 1N, 3.10 ml | [OH-].[Na+]
product | 3′-Methoxymethoxylmethylbiphenyl-4-carboxylic acid | 342 mg | COCOCC=1C=C(C=CC1)C1=CC=C(C=C1)C(=O)O | C16H16O4
